US04822805
A mixture of 4-methyl-2-(2-nitrophenyl)-5-(3-pyridyl)imidazole (4.99 g) and 10% palladium on carbon (1.0 g) in a mixture of tetrahydrofuran (150 ml) and methanol (150 ml) was hydrogenated at ambient temperature under atmospheric pressure of hydrogen gas. After removal of the catalyst by filtration, the filtrate was evaporated under reduced pressure. The residue was recrystallized from ethanol to give 2-(2-aminophenyl)-4-methyl-5-(3-pyridyl)imidazole (4.22 g).

reactant | 4-methyl-2-(2-nitrophenyl)-5-(3-pyridyl)imidazole | 4.99 g | CC=1N=C(NC1C=1C=NC=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C15H12N4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | methanol | 150 ml | CO | CH4O
product | 2-(2-aminophenyl)-4-methyl-5-(3-pyridyl)imidazole | 4.22 g | NC1=C(C=CC=C1)C=1NC(=C(N1)C)C=1C=NC=CC1 | C15H14N4
